US04472381
Dibenzylphosphoryl-L-alanyl-N-(2-indanyl)-glycyl-L-proline (0.77 g, 1.2 m mole) was dissolved in ethanol (4 ml), and the aqueous solution produced by dissolving L-arginine (0.25 g, 1.2 m mole) in water (4 ml), was added thereto. The solvent was distilled off under reduced pressure, and then water was added thereto. This water solution was freeze-dried to obtain dibenzylphosphoryl-L-alanyl-N-(2-indanyl) glycyl-L-proline L-arginine salt (0.84 g, yield: 85.2%). This product gave a single spot having an Rf =0.2 for the peptide in free form, and an Rf =0 for arginine, respectively, by thin layer chromatography (developing solvent, acetonitrile:acetic acid=30:1, Colour forming method: spraying of 25% hydrobromic acid and 0.1% ninhydrine, and heating).

reactant | Dibenzylphosphoryl-L-alanyl-N-(2-indanyl)-glycyl-L-proline | 0.77 g | C(C1=CC=CC=C1)P(=O)(CC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)N1[C@H](C(=O)O)CCC1)C1CC2=CC=CC=C2C1 | C33H38N3O5P
reactant | L-arginine | 0.25 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
product | dibenzylphosphoryl-L-alanyl-N-(2-indanyl) glycyl-L-proline L-arginine salt | 0.84 g, yield: 85.2% | N[C@@H](CCCNC(N)=N)C(=O)O.C(C1=CC=CC=C1)P(=O)(CC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)N1[C@H](C(=O)O)CCC1)C1CC2=CC=CC=C2C1 | InChI=1S/C33H38N3O5P.C6H14N4O2/c1-24(34-42(41,22-25-11-4-2-5-12-25)23-26-13-6-3-7-14-26)32(38)36(29-19-27-15-8-9-16-28(27)20-29)21-31(37)35-18-10-17-30(35)33(39)40;7-4(5(11)12)2-1-3-10-6(8)9/h2-9,11-16,24,29-30H,10,17-23H2,1H3,(H,34,41)(H,39,40);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t24-,30-;4-/m00/s1
